US08378095B2
To a solution of tert-butyl 4-(4-(2-(o-toluidino)-4-(ethoxycarbonyl)oxazol-5-yl)phenyl)piperazine-1-carboxylate (0.042 g, 0.08 mmol) in DCE (2 ml) was added trimethyltin hydroxide (0.140 g, 0.77 mmol) and the resulting mixture was heated at 80° C. overnight. The reaction was cooled to room temperature and diluted with DCM. The organic phase was washed with water. The combined aqueous phase was extracted with DCM and the combined organic phase dried over MgSO4 and the solvent removed in vacuo to afford 2-(o-toluidino)-5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)oxazole-4-carboxylic acid (0.038 g, 0.08 mmol, 96%). LCMS (1) Rt: 1.89 min; m/z (ES+) 479.

reactant | tert-butyl 4-(4-(2-(o-toluidino)-4-(ethoxycarbonyl)oxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.08 mmol, 0.042 g | C=1(C(=CC=CC1)NC=1OC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C28H34N4O5
reactant | trimethyltin hydroxide | 0.77 mmol, 0.140 g | [OH-].C[Sn+](C)C
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(o-toluidino)-5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)oxazole-4-carboxylic acid | 0.08 mmol, 0.038 g, 96% | C=1(C(=CC=CC1)NC=1OC(=C(N1)C(=O)O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C26H30N4O5
